US06867205B2
4-Amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile
Potassium carbonate (4.34 g, 31.4 mmol) and benzamidine (2.59 g, 21.5 mmol) were added at to a suspension of 2-(2,4-dichloro-benzylidene)-malononitrile (4 g, 17.9 mmol) in methanol. The yellow mixture was stirred for 1 h at room temperature and then heated to reflux for an additional 2 h. After cooling, the solvent was removed at reduced pressure, the residue was taken up in ethyl acetate/ice. The organic phase was separated, washed with water, and dried over sodium sulfate. The solvent was evaporated, the orange residue was taken up in acetone, and 1.91 g potassium manganate was added. After stirring for 90 min, the reaction mixture was filtered through decalite and evaporated. Purification by flash chromatography (silica gel, EtOAc/hexanes) afforded the title compound, MS: m/e=340.8 (M+), as a solid (2.63 g, 43%).

reactant | Potassium carbonate | 31.4 mmol, 4.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzamidine | 21.5 mmol, 2.59 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | 17.9 mmol, 4 g | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
solvent | methanol | CO | CH4O
product | 4-Amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=NC(=C1C#N)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C17H10Cl2N4
